US03966736
In the manner given in Example 13, 8,9-dibromo-6,11-dihydro-11-[[4-(2-hydroxyethyl)piperazino]acetyl]-5H-pyrido[2,3-b][1,5]benzodiazepin-5-thione is heated to about 200° C. with ethyl carbazate to give 6,7-dibromo-2,9-dihydro-9-[[4-(2-hydroxyethyl)piperazino]acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a][1,5]benzodiazepin-3-one.

reactant | 8,9-dibromo-6,11-dihydro-11-[[4-(2-hydroxyethyl)piperazino]acetyl]-5H-pyrido[2,3-b][1,5]benzodiazepin-5-thione | BrC=1C(=CC2=C(NC(C3=C(N2C(CN2CCN(CC2)CCO)=O)N=CC=C3)=S)C1)Br | C20H21Br2N5O2S
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
product | 6,7-dibromo-2,9-dihydro-9-[[4-(2-hydroxyethyl)piperazino]acetyl]-3H-pyrido[3,2-c]-s-triazolo[4,3-a][1,5]benzodiazepin-3-one | BrC1=CC2=C(N(C3=C(C=4N2C(NN4)=O)C=CC=N3)C(CN3CCN(CC3)CCO)=O)C=C1Br | C21H21Br2N7O3
